data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-C#N_2-C(=O)C_3-C(=O)OC_4-O_5-F","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(C#N)c(C(=O)C)c(C(=O)OC)c(O)c(F)c1I"],"products_smiles": ["c1(C#N)c(C(=O)C)c(C(=O)OC)c(O)c(F)c1c2c(C#N)c(C(=O)C)c(C(=O)OC)c(O)c2(F)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C#N)c(C(=O)C)c(C(=O)OC)c(O)c(F)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(C#N)c(C(=O)C)c(C(=O)OC)c(O)c(F)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C#N)c(C(=O)C)c(C(=O)OC)c(O)c(F)c1[Cu](I)c2c(C#N)c(C(=O)C)c(C(=O)OC)c(O)c2(F)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C(=O)C)c(C(=O)OC)c(O)c(F)c1c2c(C#N)c(C(=O)C)c(C(=O)OC)c(O)c2(F)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-217_1-C1CCCCC1_2-c1ccc(Cl)cc1","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C1CCCCC1)C(c1ccc(Cl)cc1)[Si](C)(C)C"],"products_smiles": ["C(C1CCCCC1)=C(c1ccc(Cl)cc1)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C1CCCCC1)C(c1ccc(Cl)cc1)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCCC1)=C(c1ccc(Cl)cc1)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
